US04714492
Sodium 6-(4-chlorophenyl)-1-methyl-2-n-propyl-4-oxonicotinate
0.42 g (0.0052 mol) of 50% aqueous sodium hydroxide is added to a suspension of 1.6 g (0.0052 mol) 6-(4-chlorophenyl)-1-methyl-2-n-propyl-4-oxonicotinic acid in 25 ml of methanol. The solution formed is allowed to stand at room temperature for 1 hr. and is concentrated in vacuo. The concentrate is dried to afford 1.5 g (88% yield) of product.

reactant | sodium hydroxide | 0.0052 mol, 0.42 g | [OH-].[Na+]
reactant | 6-(4-chlorophenyl)-1-methyl-2-n-propyl-4-oxonicotinic acid | 0.0052 mol, 1.6 g | ClC1=CC=C(C=C1)C=1N(C(=C(C(=O)O)C(C1)=O)CCC)C | C16H16ClNO3
solvent | methanol | 25 ml | CO | CH4O
product | Sodium 6-(4-chlorophenyl)-1-methyl-2-n-propyl-4-oxonicotinate | 1.5 g, 88% yield | ClC1=CC=C(C=C1)C=1N(C(=C(C(=O)[O-])C(C1)=O)CCC)C.[Na+] | InChI=1S/C16H16ClNO3.Na/c1-3-4-12-15(16(20)21)14(19)9-13(18(12)2)10-5-7-11(17)8-6-10;/h5-9H,3-4H2,1-2H3,(H,20,21);/q;+1/p-1
